US07723378B2
To a suspension of 3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (4.10 g, 18.28 mmol) in diethyl ether (300 mL), methyllithium (23 mL, 1.6 M solution in diethyl ether) is slowly added at rt. The reaction mixture becomes clear, yellow and slightly warm (26° C.), and is stirred for 15 min before it is quenched with water. The organic layer is separated, washed once more with water, dried over MgSO4 and evaporated. The crude product is purified by CC on silica gel eluting with heptane:EA 4:1 to give 1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone (2.80 g) as a pale yellow crystalline solid; LC-MS: tR=1.06 min, [M+1]=223.17; 1H NMR (CDCl3): δ 3.00 (t, J=7.0 Hz, 2H), 2.43 (s, 3H), 2.31 (s, 3H), 2.26 (s, 2H), 1.51 (t, J=7.0 Hz, 2H), 0.95 (s, 6H).

reactant | 3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 18.28 mmol, 4.10 g | CC1=C2C(=C(S1)C(=O)O)CCC(C2)(C)C | C12H16O2S
reactant | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | methyllithium | 1.6 M, 23 mL | C[Li]
product | 1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-ethanone | 2.80 g | CC1=C2C(=C(S1)C(C)=O)CCC(C2)(C)C | C13H18OS
